US04948796
A mixture consisting of 15.1 g of methyl 2-methylnicotinate, 36.0 g of 4-methylbenzaldehyde and 15.0 g of anhydrous zinc chloride was stirred for 30 minutes at 180° C. The resulting reaction mixture was cooled to room temperature. Thereto were added 151 ml of a 10% aqueous sodium hydroxide solution and 100 ml of toluene. The resulting mixture was stirred. The insolubles were removed by filtration. An aqueous layer was separated, washed with toluene and then adjusted to pH 5.0 with acetic acid. The resulting crystals were collected by filtration and dried to obtain 13.2 g of 2-(p-methylstyryl)nicotinic acid. It was recrystallized from ethanol to obtain 10.6 g of colorless crystals having a melting point of 208°-209° C.

reactant | methyl 2-methylnicotinate | 15.1 g | CC1=C(C(=O)OC)C=CC=N1 | C8H9NO2
reactant | 4-methylbenzaldehyde | 36.0 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | zinc chloride | 15.0 g | [Cl-].[Zn+2].[Cl-]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(p-methylstyryl)nicotinic acid | 13.2 g | CC1=CC=C(C=CC2=C(C(=O)O)C=CC=N2)C=C1 | C15H13NO2
